US04012513
A mixture of ethyl 5-methoxy-2-methylindolin-3-ylacetate (2.0g.), 6-chloro-4-methyl-2-phenylpyrimidine (1.76g.) and concentrated hydrochloric acid (0.5ml.) in ethanol (50ml.) was heated under reflux for 5 hours. The solution was cooled, saturated sodium acetate solution (3ml.) was added, and the mixture was concentrated in vacuo. The residue was diluted with water (30ml.) and extracted with ethyl acetate (3 × 30ml.). The combined exracts were washed with water and then dried (Na2SO4), and the solvent was evaporated in vacuo at ca 50° C. to give ethyl 5-methoxy-2-methyl-1-(4-methyl-2-phenylpyrimidin-6-yl)indolin-3-ylacetate as a syrup. This was shown to be pure by TLC (System A) and by NMR spectroscopy (OCH3 at 6.23τ).

reactant | ethyl 5-methoxy-2-methylindolin-3-ylacetate | 2.0g | COC=1C=C2C(C(NC2=CC1)C)CC(=O)OCC | C14H19NO3
reactant | 6-chloro-4-methyl-2-phenylpyrimidine | 1.76g | ClC1=CC(=NC(=N1)C1=CC=CC=C1)C | C11H9ClN2
reactant | hydrochloric acid | 0.5ml | Cl | ClH
reactant | sodium acetate | 3ml | C(C)(=O)[O-].[Na+]
solvent | ethanol | 50ml | C(C)O | C2H6O
product | ethyl 5-methoxy-2-methyl-1-(4-methyl-2-phenylpyrimidin-6-yl)indolin-3-ylacetate | COC=1C=C2C(C(N(C2=CC1)C1=CC(=NC(=N1)C1=CC=CC=C1)C)C)CC(=O)OCC | C25H27N3O3
